US06462032B1
5′-(3-Chloro-4fluorophenyl)-spiro [cyclopentane-1,3′-[3H]indol]-2′(1′H)-one
A solution of 3-chloro-4-fluoro-bromobenzene (0.4 cm3, 0.66 g, 3.1 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.2 g) in ethylene glycol dimethyl ether (20 cm3) was stirred under N2 for 20 minutes. To this mixture was then added (spiro[cyclopentane-1,3′-[3H]indol]-2′(1′H)-one-5-yl)boronic acid (1.0 g, 4.7 mmol) and sodium carbonate (1.0 g, 9.4 mmol) in water (5 cm3). The solution was brought to reflux for 18 hours and then cooled to room temperature, poured into 2N NaOH and extracted with EtOAc (×3). The combined extracts were washed with water, brine, dried (MgSO4), and evaporated. The residue was purified by column chromatography (SiO2, EtOAc, hexane) to afford the title compound (0.65 g, 66%) as a pale-yellow solid. mp: 202-204° C., 1H NMR (DMSO-d6) δ 10.4 (s, 1H), 7.9 (dd, 1H, J=2.3, 4.9 Hz), 7.7-7.6 (m, 1H), 7.6 (d, 1H, J=1.5 Hz), 7.5 (s, 1H), 7.4 (d, 1H, J=1.8 Hz), 6.9 (d, 1H, J=8.0 Hz), 2.0-1.9 (m, 8H); MS [M−H]−=314.

reactant | 3-chloro-4-fluoro-bromobenzene | 3.1 mmol, 0.4 cm3, 0.66 g | ClC=1C=C(C=CC1F)Br | C6H3BrClF
reactant | (spiro[cyclopentane-1,3′-[3H]indol]-2′(1′H)-one-5-yl)boronic acid | 4.7 mmol, 1.0 g | N1C(C2(C3=CC=CC=C13)CCCC2B(O)O)=O | C12H14BNO3
reactant | sodium carbonate | 9.4 mmol, 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethylene glycol dimethyl ether | 20 cm3 | COCCOC | C4H10O2
solvent | water | 5 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5′-(3-Chloro-4fluorophenyl)-spiro [cyclopentane-1,3′-[3H]indol]-2′(1′H)-one | 0.65 g, 66% | ClC=1C=C(C=CC1F)C=1C=C2C3(C(NC2=CC1)=O)CCCC3 | C18H15ClFNO
